US04109088
In 300 ml. of anhydrous tetrahydrofuran was suspended 20 g. of lithium aluminum hydride and after adding slowly to the suspension a solution prepared by dissolving 8.0 g. of 4-benzyl-2-(7-indenyloxymethyl)morpholin-5-one in 50 ml. of tetrahydrofuran, the mixture was treated in a similar manner as in Example 1 to provide 6.8 g. (yield 89%) of oily 4-benzyl-2-(7-indenyloxymethyl)morpholine.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-benzyl-2-(7-indenyloxymethyl)morpholin-5-one | C(C1=CC=CC=C1)N1CC(OCC1=O)COC=1C=CC=C2C=CCC12 | C21H21NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-benzyl-2-(7-indenyloxymethyl)morpholine | yield 89% | C(C1=CC=CC=C1)N1CC(OCC1)COC=1C=CC=C2C=CCC12 | C21H23NO2
